US03948995
Preparation of Benzyl Hydroperoxide
750 G of toluene are introduced into a 1.5 liter stainless steel autoclave which is shaken; the toluene is oxidised, at 180°C under a pressure of 20 bars, with air depleted of oxygen until it contains only 8%, with an hourly flow rate of 240 liters (measured under normal temperature and pressure). After 1 hour 30 minutes the reaction mixture is cooled. The hydroperoxide is then purified via its sodium salt. 11.4 G of benzyl hydroperoxide, containing 85% by weight of pure product, are thus obtained.

reactant | oxygen | O=O | O2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
product | Benzyl Hydroperoxide | C(C1=CC=CC=C1)OO | C7H8O2
